### PR TITLE
[Merged by Bors] - feat(Geometry/Manifold): manifolds are locally path-connected

### PR DESCRIPTION
**Pull request by peabrainiac**
Shows that spaces modelled on locally path-connected spaces are themselves locally path-connected, and that the common model spaces `EuclideanHalfSpace n` and `EuclideanQuadrant n` are locally path-connected.

---

- [x] depends on: #17064
- [x] depends on: #16983

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by peabrainiac** [comment]
This should now be up-to-date and free of merge conflicts. There is thing still left to decide though: should the two instances [LocallyConvexSpace.toLocallyConnectedSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Module/LocallyConvex.html#LocallyConvexSpace.toLocallyConnectedSpace) and [NormedSpace.instLocPathConnectedSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Convex/Normed.html#NormedSpace.instLocPathConnectedSpace) that are made redundant by this PR be removed? I assume for `LocallyConvexSpace.toLocallyConnectedSpace` the answer is yes, since any file that imports it will also have access to [instLocallyConnectedSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Connected/PathConnected.html#instLocallyConnectedSpace) (which I realise now should probably be namespaced) and `LocallyConvexSpace.toLocPathConnectedSpace` from this PR. `NormedSpace.instLocPathConnectedSpace` is only made redundant by [NormedSpace.toLocallyConvexSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/LocallyConvex/WithSeminorms.html#NormedSpace.toLocallyConvexSpace) though, which is a bit further up in the import graph; removing it might thus require adding more imports to a few files. I will try to push commits removing those two instances in a moment, and would appreciate feedback on whether those commits should be kept or undone.

**Comment by peabrainiac** [comment]
Looks like there were actually no further import changes necessary - at least locally, mathlib still built just fine after removing both instances. I'm guessing local path-connectedness of normed spaces wasn't used much yet.

**Comment by peabrainiac** [comment]
I think I was wrong about `Mathlib.Analysis.Convex.Normed` not importing `Mathlib.Analysis.LocallyConvex.WithSeminorms` - I don't know how to check transitive imports like that, and just looked through the direct imports without seeing any connection. Either way though, I think this PR should now be ready for review.

File: Mathlib/Topology/Algebra/Module/LocallyConvex.lean [hunk 1]
```diff
@@ -91,10 +91,21 @@ theorem locallyConvexSpace_iff_exists_convex_subset_zero :
...
+    [ContinuousSMul ℝ E] [LocallyConvexSpace ℝ E] : LocPathConnectedSpace E :=
+  .of_bases (fun x ↦ @convex_basis ℝ _ _ _ _ _ _ x)
+    fun _ _ hs ↦ hs.2.isPathConnected <| nonempty_of_mem <| mem_of_mem_nhds hs.1
+
+/-- Convex subsets of locally convex spaces are locally path-connected. -/
+theorem Convex.locPathConnectedSpace [Module ℝ E] [ContinuousSMul ℝ E] [LocallyConvexSpace ℝ E]
+    {S : Set E} (hS : Convex ℝ S) : LocPathConnectedSpace S := by
+  refine ⟨fun x ↦ ⟨fun s ↦ ⟨fun hs ↦ ?_, fun ⟨t, ht⟩ ↦ mem_of_superset ht.1.1 ht.2⟩⟩⟩
+  let ⟨t, ht⟩ := (mem_nhds_subtype S x s).mp hs
+  let ⟨t', ht'⟩ := (@LocallyConvexSpace.convex_basis ℝ _ _ _ _ _ _ x.1).mem_iff.mp ht.1
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Module/LocallyConvex.lean:104]: Can you use named arguments instead of a sea of underscores? Something like `LocallyConvexSpace.convex_basis (\bbk := ℝ) x.1` (untested)

File: Mathlib/Topology/Algebra/Module/LocallyConvex.lean [hunk 2]
```diff
@@ -91,10 +91,21 @@ theorem locallyConvexSpace_iff_exists_convex_subset_zero :
   (locallyConvexSpace_iff_zero 𝕜 E).trans hasBasis_self
 
 -- see Note [lower instance priority]
-instance (priority := 100) LocallyConvexSpace.toLocallyConnectedSpace [Module ℝ E]
-    [ContinuousSMul ℝ E] [LocallyConvexSpace ℝ E] : LocallyConnectedSpace E :=
-  locallyConnectedSpace_of_connected_bases _ _
-    (fun x => @LocallyConvexSpace.convex_basis ℝ _ _ _ _ _ _ x) fun _ _ hs => hs.2.isPreconnected
+instance (priority := 100) LocallyConvexSpace.toLocPathConnectedSpace [Module ℝ E]
+    [ContinuousSMul ℝ E] [LocallyConvexSpace ℝ E] : LocPathConnectedSpace E :=
+  .of_bases (fun x ↦ @convex_basis ℝ _ _ _ _ _ _ x)
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Module/LocallyConvex.lean:96]: Same as below: named arguments?

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 3]
```diff
@@ -693,6 +694,24 @@ theorem ChartedSpace.locallyConnectedSpace [LocallyConnectedSpace H] : LocallyCo
   · rintro x s ⟨⟨-, -, hsconn⟩, hssubset⟩
     exact hsconn.isPreconnected.image _ ((e x).continuousOn_symm.mono hssubset)
 
+/-- If a topological space admits an atlas with locally path-connected charts, then the space itself
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:697]: How about "if a charted space `M` admits at atlas ... then `M` itself is locally connected"?

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 4]
```diff
@@ -693,6 +694,24 @@ theorem ChartedSpace.locallyConnectedSpace [LocallyConnectedSpace H] : LocallyCo
...
+  is locally connected. -/
+theorem ChartedSpace.locPathConnectedSpace [LocPathConnectedSpace H] : LocPathConnectedSpace M := by
+  refine ⟨fun x ↦ ⟨fun s ↦ ⟨fun hs ↦ ?_, fun ⟨u, hu⟩ ↦ Filter.mem_of_superset hu.1.1 hu.2⟩⟩⟩
+  let e := chartAt H x
+  let t := s ∩ e.source
+  have ht : t ∈ nhds x := Filter.inter_mem hs (chart_source_mem_nhds _ _)
+  have hts : t ⊆ s := inter_subset_left
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:704]: You're just using this once - inline into the proof?

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 5]
```diff
@@ -693,6 +694,24 @@ theorem ChartedSpace.locallyConnectedSpace [LocallyConnectedSpace H] : LocallyCo
...
+  use e.symm '' pathComponentIn (e x) (e '' t); refine ⟨⟨?_, ?_⟩, subset_trans ?_ hts⟩
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:705]: Small trick: you can combine `use` and `refine` into `refine ⟨e.symm '' pathComponentIn (e x) (e '' t), ⟨?_, ?_⟩, subset_trans ?_ hts⟩`

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 6]
```diff
@@ -693,6 +694,24 @@ theorem ChartedSpace.locallyConnectedSpace [LocallyConnectedSpace H] : LocallyCo
   · rintro x s ⟨⟨-, -, hsconn⟩, hssubset⟩
     exact hsconn.isPreconnected.image _ ((e x).continuousOn_symm.mono hssubset)
 
+/-- If a topological space admits an atlas with locally path-connected charts, then the space itself
+  is locally connected. -/
+theorem ChartedSpace.locPathConnectedSpace [LocPathConnectedSpace H] : LocPathConnectedSpace M := by
+  refine ⟨fun x ↦ ⟨fun s ↦ ⟨fun hs ↦ ?_, fun ⟨u, hu⟩ ↦ Filter.mem_of_superset hu.1.1 hu.2⟩⟩⟩
+  let e := chartAt H x
+  let t := s ∩ e.source
+  have ht : t ∈ nhds x := Filter.inter_mem hs (chart_source_mem_nhds _ _)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:703]: Up to you if you want to inline `ht` also.

**Review by grunweg — COMMENTED** [review]
A couple of small comments. Thanks for the nice PR!

File: Mathlib/Geometry/Manifold/ChartedSpace.lean (hunk 3 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/ChartedSpace.lean]: The charted space structure *is* the atlas, right? So I think saying "a topological space" makes more sense. I did name the space `M` now though, and also fixed it to say locally path-connected instead of locally connected.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/ChartedSpace.lean]: Well, a charted space might have several atlasses, one of which is connected, the other of which is not. (For local path-connectedness, that's probably all the same, though.)
I think the current phrasing is fine, though.

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 7]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Sébastien Gouëzel
 -/
 import Mathlib.Topology.PartialHomeomorph
+import Mathlib.Topology.Connected.PathConnected
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:7]: Pointing out for later reviewers: this is where the import increase is coming from.

**Review by grunweg — APPROVED** [review]
Thanks for the quick response. This PR looks good to me, let's have a maintainer take a look.
maintainer merge?
There is a significant increase in imports to `ChartedSpace`. However, manifolds don't have many dependencies right now, so this might be ok --- or splitting that file could be a follow-up PR.

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 8]
```diff
@@ -1185,6 +1185,11 @@ protected theorem IsClosed.pathComponent (x : X) : IsClosed (pathComponent x) :=
 protected theorem IsClopen.pathComponent (x : X) : IsClopen (pathComponent x) :=
   ⟨.pathComponent x, .pathComponent x⟩
 
+lemma pathComponentIn_mem_nhds (hF : F ∈ nhds x) : pathComponentIn x F ∈ nhds x := by
```
Comment (sgouezel) [inline Mathlib/Topology/Connected/PathConnected.lean:1188]:
```suggestion
lemma pathComponentIn_mem_nhds (hF : F ∈ 𝓝 x) : pathComponentIn x F ∈ nhds x := by
```
Can you use the notation for `nhds`, here and throughout the PR? Thanks!

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Comment by peabrainiac** [comment]
Merging failed because despite there being no merge conflict, a file introduced in another PR contained an import that became obsolete with this PR; hopefully the tests should pass now and the PR should be ready to merge.

**Comment by sgouezel** [comment]
Let's try again then
bors r+
